US07951819B2
1,3-Dimethyl-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-1H-pyrazole-5-carboxamide (CJS 3724)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride to afford the title compound (20 mg, 26%). 1H-NMR (δ, ppm, DMSO-d6): 2.19 (s, 3H, Mepyrrazole,3), 3.98 (s, 3H, Mepyrrazole,1), 6.48 (d, 1H, HPy,5, J=6.0 Hz), 6.81 (s, 1H, Hpyrrazole), 6.91 (d, 1H, Harom, J=8.0 Hz), 7.41 (t, 1H, Harom, J=8.0 Hz), 7.56 (s, 1H, Harom), 7.61 (d, 1H, Harom, J=8.0 Hz), 7.80 (d, 1H, HPy,6, J=6.0 Hz), 10.19 (s, 1H, NHamide), 11.19 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C18H17N6O3: 365.1362; found: 365.1356.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
product | 1,3-Dimethyl-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-1H-pyrazole-5-carboxamide | 20 mg, 26% | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC1=C2C(=NC=C1)NC(N2)=O)C | C18H16N6O3
